US07547782B2
E) 2-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)nicotinamide, hydrochloride salt
Bis(trifluoroacetoxy)iodobenzene (0.10 g, 0.23 mmol) was added to a solution of 2-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)nicotinamide (0.080 g, 0.17 mmol), water (0.006 g, 0.33 mmol) and pyridine (0.27 mL, 3.33 mmol) in anhydrous DMF (5 mL) at room temperature. The reaction mixture was stirred for 69 hours before 6N aq HCl (2 mL) was added and the reaction stirred for an additional fifteen minutes. The mixture was extracted twice with Et2O and the combined organic layers discarded. The aqueous layer was neutralized with 1M NaHCO3(aq) then extracted with EtOAc. The combined organic layers were dried over anhydrous MgSO4 and concentrated in vacuo. The resultant residue was purified by preparative HPLC (YMC S10 ODS, 30×500 mm, 30 minute gradient from 34% to 90% aqueous methanol with 0.1% TFA). The appropriate fractions were combined and lyophilized to an off-white solid that was dissolved in anhydrous THF (2 mL), cooled to 0° C. and treated with HCl (4N in dioxane, 1.0 mL, 4.0 mmol). The reaction mixture was stirred for ten minutes, before being lyophilized to afford the title compound (0.029 g, 35%) as an off-white solid. 1H NMR (DMSO-d6) δ 10.72 (s, 1H), 10.49 (s, 1H), 8.32-8.40 (m, 2H), 8.13 (dd, 1H, J=13.7, 2.4 Hz), 7.82-7.92 (m, 3H), 7.29-7.53 (m, 4H), 7.05-7.15 (m, 1H), 6.97-7.01 (m, 1H), 6.64-6.66 (m, 1H), 6.12 (d, 1H, J=2.4 Hz); HRMS(ESI+), 452.1334 (M+H)+ calc, 452.1341 (M+H)+ found.

reactant | Bis(trifluoroacetoxy)iodobenzene | 0.23 mmol, 0.10 g | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 2-(4-(2-carbamoylpyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)nicotinamide | 0.17 mmol, 0.080 g | C(N)(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)NC1=C(C(=O)NC2=C(C=C(C=C2)F)F)C=CC=N1)F | C24H16F3N5O3
reactant | water | 0.33 mmol, 0.006 g | O | H2O
reactant | pyridine | 3.33 mmol, 0.27 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 6N, 2 mL | Cl | ClH
reactant | HCl | 4.0 mmol, 4N, 1.0 mL | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenylamino)-N-(2,4-difluorophenyl)nicotinamide, hydrochloride salt | 0.029 g, 35% | Cl.NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC1=C(C(=O)NC2=C(C=C(C=C2)F)F)C=CC=N1)F | InChI=1S/C23H16F3N5O2.ClH/c24-13-3-5-19(17(25)10-13)31-23(32)16-2-1-8-29-22(16)30-14-4-6-20(18(26)11-14)33-15-7-9-28-21(27)12-15;/h1-12H,(H2,27,28)(H,29,30)(H,31,32);1H
